US08729102B2
K) Diastereomer of N-[(1S)-2-{[6-(6-hydroxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)pyridin-3-yl]oxy}-1-methylethyl]acetamide
A solution of acetic anhydride (0.126 mL) was added dropwise to a solution of diastereomer of 2-(5-{[(2S)-2-aminopropyl]oxy}pyridin-2-yl)-2-methyl-2,3-dihydro-1-benzofuran-6-ol (500 mg) in pyridine (15 mL) at ambient temperature. After being stirred at ambient temperature for 2 hr, the mixture was diluted with methanol (15 mL) and 4 M sodium hydroxide (10 mL). The mixture was stirred at ambient temperature for 15 hr. The organic solvent was removed under reduced pressure, and the aqueous solution was acidified with 4 M hydrochloric acid and extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (350 mg).

reactant | acetic anhydride | 0.126 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(5-{[(2S)-2-aminopropyl]oxy}pyridin-2-yl)-2-methyl-2,3-dihydro-1-benzofuran-6-ol | 500 mg | N[C@H](COC=1C=CC(=NC1)C1(OC2=C(C1)C=CC(=C2)O)C)C | C17H20N2O3
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | 15 mL | CO | CH4O
solvent | sodium hydroxide | 4 M, 10 mL | [OH-].[Na+]
product | N-[(1S)-2-{[6-(6-hydroxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)pyridin-3-yl]oxy}-1-methylethyl]acetamide | 350 mg | OC1=CC2=C(CC(O2)(C)C2=CC=C(C=N2)OC[C@H](C)NC(C)=O)C=C1 | C19H22N2O4
